US07553969B1
(1) Synthesis of 2-(4-fluorophenyl)-1-(N-methoxy-N-methylcarbamoyl)ethylcarbamic acid tert-butyl ester
To a solution of Boc-Phe(4-F)-OH (5.0 g, 17.7 mmol) in methylene chloride (89 ml), BOP reagent (9.39 g, 21.2 mmol), N,O-dimethylhydroxylamine hydrochloride (2.07 g, 21.2 mmol) and TEA (5.92 ml, 42.5 mmol) were added under cooling with ice and stirred for 30 min. The reaction mixture was mixed with water and extracted with methylene chloride. The organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate and evaporated to remove the solvent under reduced pressure. The thus obtained residue was subjected to silica gel column chromatography (developing solvent: ethyl acetate:n-hexane=1:1), giving the titled compound (5.76 g, 100%).

reactant | Boc-Phe(4-F)-OH | 17.7 mmol, 5.0 g | N([C@@H](CC1=CC=C(C=C1)F)C(=O)O)C(=O)OC(C)(C)C | C14H18FNO4
reactant | BOP reagent | 21.2 mmol, 9.39 g | CN(C)[P+](N(C)C)(N(C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | N,O-dimethylhydroxylamine hydrochloride | 21.2 mmol, 2.07 g | Cl.CNOC
reactant | water | O | H2O
solvent | methylene chloride | 89 ml | C(Cl)Cl | CH2Cl2
product | 2-(4-fluorophenyl)-1-(N-methoxy-N-methylcarbamoyl)ethylcarbamic acid tert-butyl ester | 5.76 g, 100% | C(C)(C)(C)OC(NC(CC1=CC=C(C=C1)F)C(N(C)OC)=O)=O | C16H23FN2O4
